US04220798
The solution of 0.5 g of 9-keto-15-hydroxy-19-methyl-prosta-13,18-dienoic acid, methyl ester, 0.170 g of NaOH in water (1.5 ml), methanol (4.5 ml) is left for two hours at room temperature under nitrogen, then diluted with water (22 ml) and extracted with diethyl ether (10 ml). The aqueous layer is acidified (congo red) with HCl (5%), then extracted with diethyl ether (3×15 ml). The ethereal solution is washed with water to neutrality, dried over sodium sulphate and the solvent evaporated in vacuo to yield 0.44 g of 9-keto-15-hydroxy-19-methyl-prosta-13,18-dienoic acid (oil).

reactant | 9-keto-15-hydroxy-19-methyl-prosta-13,18-dienoic acid, methyl ester | 0.5 g | O=C1[C@H](CCCCCCC(=O)OC)[C@H](CC1)C=CC(CCC=C(C)C)O | C22H36O4
reactant | NaOH | 0.170 g | [OH-].[Na+]
solvent | water | 1.5 ml | O | H2O
solvent | methanol | 4.5 ml | CO | CH4O
solvent | water | 22 ml | O | H2O
product | 9-keto-15-hydroxy-19-methyl-prosta-13,18-dienoic acid | 0.44 g | O=C1[C@H](CCCCCCC(=O)O)[C@H](CC1)C=CC(CCC=C(C)C)O | C21H34O4
